US08703953B2
To a stirred solution of tert-butyl((2S)-1-((4-acetamido-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (0.15 g, 0.319 mmol) in dichloromethane (25 mL) at room temperature was added TFA (0.246 mL, 3.19 mmol) and the mixture stirred for 12 h. After completion of reaction, the solvent was removed under reduced pressure to afford N-(8-(((S)-2-amino-4-methylpentyl)oxy)-5-methyl-5H-chromeno[3,4-c]pyridin-4-yl)acetamide (0.18 g, 0.281 mmol, 58% yield) as a brown oil. The product was carried forward into the next step without further purification. LCMS (ESI) m/e 370.2 [(M+H)+, calcd for C21H28N3O3 370.2]; LC/MS retention time (Method C): tR=1.14 min.

reactant | tert-butyl((2S)-1-((4-acetamido-5-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.319 mmol, 0.15 g | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1)OC(C1=C(N=CC=C12)NC(C)=O)C)CC(C)C)=O | C26H35N3O5
reactant | TFA | 3.19 mmol, 0.246 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(8-(((S)-2-amino-4-methylpentyl)oxy)-5-methyl-5H-chromeno[3,4-c]pyridin-4-yl)acetamide | 0.281 mmol, 0.18 g, 58% yield | N[C@H](COC=1C=CC2=C(C1)OC(C1=C(N=CC=C12)NC(C)=O)C)CC(C)C | C21H27N3O3
